US06458796B1
5-Phenylpentan-2-ol
In one portion, 3.6 ml (4.72 g, 23.7 mmol) of 3-phenylpropyl bromide are added to a suspension of 5.2 g (213 mmol) of magnesium in 30 ml of diethyl ether. A further 30 ml (39.3 g, 197 mmol) of 3-phenylpropyl bromide are added dropwise at such a rate that constant reflux is maintained. After the addition has ended, the mixture is diluted with 100 ml of diethyl ether and refluxed for 30 min. The mixture is diluted with a further 80 ml of diethyl ether and cooled to −78° C. A solution, of a temperature of 0° C., of 19 ml of acetaldehyde in 50 ml of ether is added dropwise, and the reaction mixture is stirred at −78° C. for 2 hours and warmed to room temperature. 50 ml of saturated NH4Cl solution are added and the organic phase is extracted with 1N HCl and saturated NaHCO3 solution and dried over Na2SO4. Removal of the solvent gives 33.4 g (95%) of a slightly yellow oil.

reactant | 3-phenylpropyl bromide | 23.7 mmol, 3.6 ml, 4.72 g | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | magnesium | 213 mmol, 5.2 g | [Mg] | Mg
reactant | 3-phenylpropyl bromide | 197 mmol, 30 ml, 39.3 g | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | acetaldehyde | 19 ml | C(C)=O | C2H4O
reactant | NH4Cl | 50 ml | [NH4+].[Cl-]
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 5-Phenylpentan-2-ol | C1(=CC=CC=C1)CCCC(C)O | C11H16O
